### PR TITLE
[Merged by Bors] - feat: lemmas about `updateFinset`

### PR DESCRIPTION
**Pull request by EtienneC30**
I don't think the large import is an issue because the only file which imports `Data.Finset.Update` is `MeasureTheory.MeasurableSpace.Basic` which also imports `Data.Finset.Pi`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Update.lean [hunk 1]
```diff
@@ -79,4 +79,28 @@ theorem updateFinset_updateFinset {s t : Finset ι} (hst : Disjoint s t)
   · exact piCongrLeft_sumInl (fun b : ↥(s ∪ t) => π b) e y z ⟨i, his⟩ |>.symm
   · exact piCongrLeft_sumInr (fun b : ↥(s ∪ t) => π b) e y z ⟨i, hit⟩ |>.symm
 
+lemma updateFinset_updateFinset_subset {s t : Finset ι} (hst : s ⊆ t)
```
Comment (RemyDegenne) [inline Mathlib/Data/Finset/Update.lean:82]:
```suggestion
lemma updateFinset_updateFinset_of_subset {s t : Finset ι} (hst : s ⊆ t)
```

File: Mathlib/Data/Finset/Update.lean [hunk 2]
```diff
@@ -79,4 +79,28 @@ theorem updateFinset_updateFinset {s t : Finset ι} (hst : Disjoint s t)
...
+    (x : Π i, π i) (y : Π i : s, π i) (z : Π i : t, π i) :
+    updateFinset (updateFinset x s y) t z = updateFinset x t z := by
+  ext i
+  simp only [updateFinset]
+  split_ifs with h1 h2 <;> try rfl
+  exact (h1 (hst h2)).elim
+
+lemma restrict_updateFinset' {s t : Finset ι} (hst : s ⊆ t) (x : Π i, π i) (y : Π i : t, π i) :
```
Comment (RemyDegenne) [inline Mathlib/Data/Finset/Update.lean:90]: We can avoid a cryptic prime:
```suggestion
lemma restrict_updateFinset_of_subset {s t : Finset ι} (hst : s ⊆ t) (x : Π i, π i) (y : Π i : t, π i) :
```

File: Mathlib/Order/Restriction.lean [hunk 3]
```diff
@@ -83,6 +82,25 @@ theorem frestrictLe₂_comp_frestrictLe {a b : α} (hab : a ≤ b) :
 theorem frestrictLe₂_comp_frestrictLe₂ {a b c : α} (hab : a ≤ b) (hbc : b ≤ c) :
     (frestrictLe₂ (π := π) hab) ∘ (frestrictLe₂ hbc) = frestrictLe₂ (hab.trans hbc) := rfl
 
+section updateFinset
+
+open Function
+
+variable [DecidableEq α]
+
+lemma frestrictLe_updateFinset' {a b : α} (hab : a ≤ b) (x : Π c, π c) (y : Π c : Iic b, π c) :
```
Comment (RemyDegenne) [inline Mathlib/Order/Restriction.lean:91]:
```suggestion
lemma frestrictLe_updateFinset_of_le {a b : α} (hab : a ≤ b) (x : Π c, π c) (y : Π c : Iic b, π c) :
```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+

**Comment by EtienneC30** [comment]
Thanks!
bors merge
